US05166198
f) 6-[[1-(t-Butyldimethylsilyloxymethyl)-3-(diethoxyphosphoryl)propoxy]amino]-4-chloro-5-formamidopyrimidine
A mixture of 4,6-dichloro-5-formamidopyrimidine (0.73 g, 3.8 mmol), diethyl [4-(t-butyldimethylsilyloxy)-3-(aminooxy)butyl]phosphonate (1.35 g, 3.8 mmol) and triethylamine (0.78 ml, 5.7 mmol) in dioxan (20 ml) was heated at 90° C. for 3 hours. After cooling to ambient temperature, the mixture was filtered and the filtrate evaporated. The residue was chromatographed on silica gel using dichloromethane-methanol (98:2) as eluant to yield the title compound as a oil (0.56 g, 29). IR: υmax (film) 3180, 2940, 2870, 1690, 1635, 1250, 1030, 970, 830, 780 cm-1. 1H NMR: δH (CDCl3) 0.05 (6H, s, SiMe2), 0.9 (9H, s, SiBut), 1.3 (6H, t, J=7Hz, (OCH2CH3 )2), 1.6-2.3 (4H, m, CH2CH2P), 3.6-4.3 (7H, m, OCH2CH+(OCH2CH3)2), 7.3-10.05 (4H, broad, --NHCHO+--NHO+H-2).

reactant | 4,6-dichloro-5-formamidopyrimidine | 3.8 mmol, 0.73 g | ClC1=NC=NC(=C1NC=O)Cl | C5H3Cl2N3O
reactant | diethyl [4-(t-butyldimethylsilyloxy)-3-(aminooxy)butyl]phosphonate | 3.8 mmol, 1.35 g | [Si](C)(C)(C(C)(C)C)OCC(CCP(OCC)(OCC)=O)ON | C14H34NO5PSi
reactant | triethylamine | 5.7 mmol, 0.78 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 6-[[1-(t-Butyldimethylsilyloxymethyl)-3-(diethoxyphosphoryl)propoxy]amino]-4-chloro-5-formamidopyrimidine | 0.56 g | [Si](C)(C)(C(C)(C)C)OCC(CCP(=O)(OCC)OCC)ONC1=C(C(=NC=N1)Cl)NC=O | C19H36ClN4O6PSi
